US04645771
3-Chloro-4-hydroxybenzoic acid hemihydrate (14.5 g.) was heated under reflux for 1 hour with thionyl chloride (80 ml.). The mixture was then evaporated, the residue dissolved in ether and the subsequent solution evaporated. The residue obtained (3-chloro-4-hydroxybenzoyl chloride) was dissolved in ether (80 ml.). The stirred solution was then treated dropwise with a solution of 1,2,3,6-tetrahydropyridine (16.6 g.) in ether (50 ml.) with ice-cooling. The mixture was stirred for 17 hours and evaporated. Water (150 ml.) was then added and the mixture was stirred with ether (50 ml.). The insoluble material was separated by filtration, and combined with the solid obtained by basification of the aqueous phase. The combined solids were stirred with acetone (150 ml.), separated by filtration, washed with acetone (50 ml.) and air-dried to give 1-(3-chloro-4-hydroxybenzoyl)-1,2,3,6-tetrahydropyridine (13.6 g.), m.p. 186°-189° C.

reactant | 3-Chloro-4-hydroxybenzoic acid hemihydrate | 14.5 g | O.ClC=1C=C(C(=O)O)C=CC1O.ClC=1C=C(C(=O)O)C=CC1O
solvent | thionyl chloride | 80 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-chloro-4-hydroxybenzoyl chloride | ClC=1C=C(C(=O)Cl)C=CC1O | C7H4Cl2O2
